US08247403B2
(3) 9-bicyclo[2.2.1]hepta-2-yl-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride
A mixture of tert-butyl 9-bicyclo[2.2.1]hepta-2-yl-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (100 mg, 0.292 mmol), ethyl acetate (1 ml) and 4N hydrogen chloride-ethyl acetate solution (2 ml) was stirred at room temperature for 0.5 hr, and the solvent was evaporated under reduced pressure. The residue was recrystallized from a mixed solvent of methanol and ether to give the desired product (24.0 mg, 29.4%) as a solid.

reactant | hepta-2-yl-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.292 mmol, 100 mg | CC(CCCCC)OC(=O)N1CCOC2=C(C1)C=CC=C2 | C17H25NO3
reactant | hydrogen chloride-ethyl acetate | 4N, 2 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | hepta-2-yl-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride | 24.0 mg, 29.4% | Cl.CC(CCCCC)C1OC2=C(CNC1)C=CC=C2 | InChI=1S/C16H25NO.ClH/c1-3-4-5-8-13(2)16-12-17-11-14-9-6-7-10-15(14)18-16;/h6-7,9-10,13,16-17H,3-5,8,11-12H2,1-2H3;1H
